US06812235B2
A mixture of ethyl 1,2,3,6,7,8-hexahydroazocine-7-carboxylate (65 mg, 0.35 mmol), 1-(tert-butoxycarbonyl)-piperidine-4-carboxylic acid (91 mg, 0.35 mmol), 1-hydroxybenztriazole (HOBT) (48 mg, 0.35 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodimde hydrochloride (WSC.HCl) (68 mg, 0.35 mmol) in DMF was stirred overnight at room temperature. The mixture was quenched by a saturated aqueous NaHCO3 solution, then extracted with ethyl acetate. The extract was washed with water and brine, dried over Na2SO4, and evaporated in vacuo. The residue was dissolved in THF (3 mL), and 1N aqueous LiOH (0.9 mL) was added thereto. After stiring for an hour, the mixture was acidified to pH 2.5 with 20% aqueous KHSO4 solution, and extracted with ethyl acetate. The extract was dried over Na2SO4, and evaporated in vacuo. The residue was dissolved in DMF (5 mL). To the solution was added β-alanine methyl ester hydrochloride (42 mg, 0.30 mmol), HOBT (41 mg, 0.30 mmol) and WSC (55 mL, 0.30 mmol). After stirring for 2 hours, the mixture was quenched by a saturated aqueous NaHCO3 solution, then extracted with ethyl acetate. The extract was washed with water and brine, dried over Na2SO4, and evaporated in vacuo. The residue was purified by a silica gel column chromatography eluting with a mixture of ethyl acetate and n-hexane (1:10) to give N-{1-[3-[1-(tert-butoxycarbonyl)4-piperidinyl)propionyl]-1,2,3,6,7,8-hexahydroazocine-7-carbonyl}-β-alanine methyl ester (127 mg, 0.27 mmol, 68.3%) as a colourless oil.

reactant | ethyl 1,2,3,6,7,8-hexahydroazocine-7-carboxylate | 0.35 mmol, 65 mg | N1CCC=CCC(C1)C(=O)OCC | C10H17NO2
reactant | 1-(tert-butoxycarbonyl)-piperidine-4-carboxylic acid | 0.35 mmol, 91 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
reactant | 1-hydroxybenztriazole | 0.35 mmol, 48 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | β-alanine methyl ester hydrochloride | 0.30 mmol, 42 mg | Cl.COC(CCN)=O
reactant | HOBT | 0.30 mmol, 41 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | WSC | 0.30 mmol, 55 mL | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | CN(C)C=O | C3H7NO
product | N-{1-[3-[1-(tert-butoxycarbonyl)4-piperidinyl)propionyl]-1,2,3,6,7,8-hexahydroazocine-7-carbonyl}-β-alanine methyl ester | 0.27 mmol, 127 mg, 68.3% | COC(CCNC(=O)C1CC=CCCN(C1)C(CCC1CCN(CC1)C(=O)OC(C)(C)C)=O)=O | C25H41N3O6
